US06329370B1
[4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-methoxy-phthalazin-1-yl]-thiazol-2-yl amine (Compound 46)
At 100° C. a solution of 4-chloro-1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazine (0.5 g, 1.41 mmoles), prepared as described in example 45, 2-aminothiazole (0.424 g, 4.23 mmoles), triethylamine (0.59 ml, 4.23 mmoles), palladium acetate (16 mg, 0.07 mmoles) and triphenylphosphine (56 mg, 0.21 mmoles) was stirred under N2. After 20 hours the mixture was poured into water/ice and extracted more times with CH2Cl2. The organic phase was washed with water, anhydrified and concentrated to give a solid which was flash chromatographed (eluent: hexane/ethyl acetate 7:3) yielding 0.24 g of the title compound (yield: 50%). m.p.: 218-220° C.

reactant | 4-chloro-1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazine | 1.41 mmoles, 0.5 g | ClC1=NN=C(C2=CC=C(C=C12)OC)CC1=C(C=NC=C1Cl)Cl | C15H10Cl3N3O
reactant | 2-aminothiazole | 4.23 mmoles, 0.424 g | NC=1SC=CN1 | C3H4N2S
reactant | triethylamine | 4.23 mmoles, 0.59 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 0.21 mmoles, 56 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | palladium acetate | 0.07 mmoles, 16 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-methoxy-phthalazin-1-yl]-thiazol-2-yl amine | 0.24 g, yield: 50% | ClC=1C=NC=C(C1CC1=NN=C(C2=CC(=CC=C12)OC)NC=1SC=CN1)Cl | C18H13Cl2N5OS
